US09388166B2
To a solution of 2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine (30 mg, 0.11 mmol) in CH2Cl2 (5 mL) was added 3-chlorobenzoic acid (17 mg, 0.11 mmol) and HATU (42 mg, 0.11 mol). The solution was stirred at 25° C. for 1 h and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded 3-chloro-N-[2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-benzamide (35 mg, 78%) as a white solid. MH+ 411.9.

reactant | 2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine | 0.11 mmol, 30 mg | ClC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)N | C14H12ClN3O
reactant | 3-chlorobenzoic acid | 0.11 mmol, 17 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | HATU | 0.11 mol, 42 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-N-[2-(4-chloro-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-benzamide | 35 mg, 78% | ClC=1C=C(C(=O)NC2=CC=C3C=C(NC3=C2)C=2C(=NC=CC2Cl)OC)C=CC1 | C21H15Cl2N3O2
